US06294152B1
1-(2′-Carboxyethyl)-3-hydroxy-2-methyl-4-pyridinone (LIGAND VIII).
A reaction analogous to that used for the synthesis of 3-hydroxy-1,2-dimethyl-4-pyridinone was employed starting with β-alanine (2.5 g). No precipitate was observed after concentration and, at this point, the pH was set to 4 with hydrochloric acid. Following extraction with dichloromethane, the solvent was removed by rotary evaporation. Hydrogenolysis was performed as before, although the final product was not recrystallized. An off-white powder was obtained (2.3 g). Proton NMR (D20): 7.89 (d, 1H), 6.88 (d, 1H), 4.39 (t, 2H), 2.76 (t, 2H), 2.38 (s, 3H).

reactant | 3-hydroxy-1,2-dimethyl-4-pyridinone | OC1=C(N(C=CC1=O)C)C | C7H9NO2
reactant | β-alanine | 2.5 g | NCCC(=O)O | C3H7NO2
product | 1-(2′-Carboxyethyl)-3-hydroxy-2-methyl-4-pyridinone | C(=O)(O)CCN1C(=C(C(C=C1)=O)O)C | C9H11NO4
